US06369057B1
4-(3-Methyl-2-buten-1-yl)-7-phenoxysulfonyl-3,4-dihydroquinoxalin-2(1H)-one
7-Phenoxysulfonyl-3,4-dihydroquinoxalin-2(1H)-one (1.52 g, 5.0 mmol) in 20 ml of N,N-dimethylacetamide was stirred for 8 hours at 100° C. with 2 ml of 3-methyl-2-buten-1-yl bromide. After cooling, the mixture was treated with water and extracted with ethyl acetate. The solution was dried using magnesium sulfate and then concentrated, and the residue was chromatographed over a silica gel column using ethyl acetate/heptane=1:1. The fractions which contained the substance were evaporated on a rotary evaporator, and the product was subsequently stirred with pentane and filtered off with suction, melting point 132° C.

reactant | 7-Phenoxysulfonyl-3,4-dihydroquinoxalin-2(1H)-one | 5.0 mmol, 1.52 g | O(C1=CC=CC=C1)S(=O)(=O)C1=CC=C2NCC(NC2=C1)=O | C14H12N2O4S
reactant | 3-methyl-2-buten-1-yl bromide | 2 ml | CC(=CCBr)C | C5H9Br
reactant | water | O | H2O
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
product | 4-(3-Methyl-2-buten-1-yl)-7-phenoxysulfonyl-3,4-dihydroquinoxalin-2(1H)-one | CC(=CCN1CC(NC2=CC(=CC=C12)S(=O)(=O)OC1=CC=CC=C1)=O)C | C19H20N2O4S
